US09029360B2
2-Ethyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine hydrobromide
0.40 g (1.47 mmol) 5-bromo-azepan-4-one hydrobromide, 0.13 g (1.47 mmol) thiopropionamide and 3 mL ethanol were stirred under reflux for 3 hours. The reaction was allowed to cool to RT and was filtered. The filtrate was concentrated to dryness and dried.

reactant | 5-bromo-azepan-4-one hydrobromide | 1.47 mmol, 0.40 g | Br.BrC1C(CCNCC1)=O
reactant | thiopropionamide | 1.47 mmol, 0.13 g | C(CC)(=S)N | C3H7NS
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-Ethyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine hydrobromide | Br.C(C)C=1SC2=C(CCNCC2)N1 | InChI=1S/C9H14N2S.BrH/c1-2-9-11-7-3-5-10-6-4-8(7)12-9;/h10H,2-6H2,1H3;1H
